US08217035B2
To a mixture of sodium hydride (189 mg, 4.73 mmol) in anhydrous tetrahydrofuran (2 mL) at 0° C., a solution of 2-chloro-5-nitropyridine (500 mg, 3.16 mmol) and 1-methylpiperidin-4-ol (455 mg, 3.96 mmol) in anhydrous tetrahydrofuran (4 mL) was added dropwise. The reaction was heated reflux for 16 h. The THF was evaporated and water (100 mL) and EtOAc (200 mL) were added. The aqueous layer was extracted with EtOAc (200 mL). The organic layers were combined, washed with brine, dried over sodium sulfate and concentrated to give a brown oil. Purification by silica gel column chromatography using 3% methanol/methylene chloride yielded 2-(1-methylpiperidin-4-yloxy)-5-nitropyridine as a yellow solid, (367 mg, 49%). LC/MS (m/z): 238.0 (MH+), Rt 1.59 minutes.

reactant | sodium hydride | 4.73 mmol, 189 mg | [H-].[Na+]
reactant | 2-chloro-5-nitropyridine | 3.16 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 1-methylpiperidin-4-ol | 3.96 mmol, 455 mg | CN1CCC(CC1)O | C6H13NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-(1-methylpiperidin-4-yloxy)-5-nitropyridine | CN1CCC(CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C11H15N3O3
